US07244725B2
Step 1: 6-neopentylchroman-4-ol.
To a flame dried round bottom flask containing 6-iodo-chroman-4-ol (3.0 g, 10.8 mmol) and Pd(dppf)Cl2 (0.44 g, 0.54 mmol) was added 6 ml of anhydrous THF and the mixture chilled to 0° C. The mixture was treated with neopentyl zinc chloride (prepared as previously described) (50 ml, 30 mmol, 0.6 M in THF) and stirred under nitrogen at r.t. for 19 h. followed by 5 h at 50° C. (oil bath). The reaction was cooled to r.t. and quenched with NH4Cl and extracted with EtOAc. The organic layer was dried over Na2SO4 and concentrated in vacuo to 1.9 g (79%) of a white solid after flash chromatography (10% EtOAc/heptanes, Biotage 40M) Rf=0.11. HRMS (ESI+) calcd for C14H20O2 m/z 220.1463 (M+H)+; found 220.1460.

reactant | 6-iodo-chroman-4-ol | 10.8 mmol, 3.0 g | IC=1C=C2C(CCOC2=CC1)O | C9H9IO2
reactant | neopentyl zinc chloride | [Cl-].C(C(C)(C)C)[Zn+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | 0.54 mmol, 0.44 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 6-neopentylchroman-4-ol | C(C(C)(C)C)C=1C=C2C(CCOC2=CC1)O | C14H20O2
